### PR TITLE
[Merged by Bors] - chore: replace mono by gcongr

### PR DESCRIPTION
**Pull request by grunweg**
gcongr is more maintained, and slightly faster here.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
Seems fine

maintainer merge

File: Mathlib/Dynamics/OmegaLimit.lean [hunk 1]
```diff
@@ -227,7 +227,7 @@ theorem eventually_closure_subset_of_isCompact_absorbing_of_isOpen_of_omegaLimit
     apply Subset.trans hg₃
     simp only [j, iUnion_subset_iff, compl_subset_compl]
     intros u hu
-    mono
+    unfold w; gcongr
```
Comment (b-mehta) [inline Mathlib/Dynamics/OmegaLimit.lean:230]: How would you feel about putting these on separate lines?

Comment (grunweg) [reply Mathlib/Dynamics/OmegaLimit.lean:230]: Equally fine, so I'm happy to do so.
```suggestion
    unfold w
    gcongr

**Comment by b-mehta** [comment]
Thanks!

bors merge
